US06747049B2
b) 2-[(tert-Butoxycarbonyl-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-amino)-methyl]-benzoic acid ethyl ester
To a suspension of 3.41 g of powdered KOH in 110 ml of DMSO was added at 22° C. 6.00 g of {4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-carbamic acid tert-butyl ester and the suspension was stirred for 25 min. A solution of 7.40 g of 2-bromomethyl-benzoic acid ethyl ester in 10 ml of DMSO was added slowly keeping the temperature at 15-20° C. and stirring was continued at 22° C. for 2.5 h. The dark mixture was partitioned between 500 ml of a saturated aqueous NH4Cl and 200 ml of AcOEt, the organic layer was washed with saturated aqueous NH4Cl and water, dried and evaporated. The residue was purified by chromatography (SiO2, n-hexane/AcOEt 4:1) to give 7.96 g of the title compound as a pale yellow oil. MS: (M+H)+ 557.3.

reactant | KOH | 3.41 g | [OH-].[K+]
reactant | {4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-carbamic acid tert-butyl ester | 6.00 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)=O | C23H26N2O4
reactant | 2-bromomethyl-benzoic acid ethyl ester | 7.40 g | C(C)OC(C1=C(C=CC=C1)CBr)=O | C10H11BrO2
solvent | DMSO | 110 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-[(tert-Butoxycarbonyl-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-amino)-methyl]-benzoic acid ethyl ester | 7.96 g | C(C)OC(C1=C(C=CC=C1)CN(C1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C33H36N2O6
